US05998433
To a solution of 0.527 g (3.302 mmol) of 4,5,6,7-tetrahydrofuro[2,3-c]pyridine hydrochloride, 0.74 g (3.30 mmol) of 4-(1-phenylethenyl)benzoic acid and 1.84 ml (13.2 mmol) of triethylamine in 15 ml of N,N-dimethylformamide, 0.60 ml (3.96 mmol) of diethyl cyanophosphonate was added dropwise, followed by overnight stirring at room temperature. This mixture was poured into water and extracted with diethyl ether 3 times. The combined organic layer was dried over anhydrous sodium sulfate; the solvent was distilled off under reduced pressure. The resulting crude product was purified by silica gel column chromatography (hexane/ethyl acetate=6/1 to 3/1) to yield 6-[4-(1-phenylethenyl)benzoyl]-4,5,6,7-tetrahydrofuro[2,3-c]pyridine.

reactant | 4,5,6,7-tetrahydrofuro[2,3-c]pyridine hydrochloride | 3.302 mmol, 0.527 g | Cl.O1C=CC2=C1CNCC2
reactant | 4-(1-phenylethenyl)benzoic acid | 3.30 mmol, 0.74 g | C1(=CC=CC=C1)C(=C)C1=CC=C(C(=O)O)C=C1 | C15H12O2
reactant | triethylamine | 13.2 mmol, 1.84 ml | C(C)N(CC)CC | C6H15N
reactant | diethyl cyanophosphonate | 3.96 mmol, 0.60 ml | C(#N)P(OCC)(OCC)=O | C5H10NO3P
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 6-[4-(1-phenylethenyl)benzoyl]-4,5,6,7-tetrahydrofuro[2,3-c]pyridine | C1(=CC=CC=C1)C(=C)C1=CC=C(C(=O)N2CC3=C(CC2)C=CO3)C=C1 | C22H19NO2
